US08859591B2
A mixture of (4-iodophenyl)methanol (1030 mg, 4.41 mmol), 4-(trifluoromethyl)-1H-pyrazole (600 mg, 4.41 mmol), copper(I) iodide (168 mg, 0.882 mmol), trans-4-hydroxy-L-proline (231 mg, 1.76 mmol) and cesium carbonate (2900 mg, 8.82 mmol) in dimethylsulfoxide (7.5 mL) was heated to 85° C. for 20 hours. The mixture was diluted with water and extracted with ethyl acetate twice. The combined organic layers were dried over sodium sulfate, filtered and concentrated. Purification by column chromatography (0-45% ethyl acetate in heptane), gave (4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methanol. 1H NMR (400 MHz, CDCl3, δ): 8.16 (s, 1H), 7.89 (s, 1H), 7.65 (d, J=8.39 Hz, 2H), 7.47 (d, J=8.39 Hz, 2H), 4.74 (d, J=5.66 Hz, 2H), 1.85 (t, J=5.86 Hz, 1H).

reactant | (4-iodophenyl)methanol | 4.41 mmol, 1030 mg | IC1=CC=C(C=C1)CO | C7H7IO
reactant | 4-(trifluoromethyl)-1H-pyrazole | 4.41 mmol, 600 mg | FC(C=1C=NNC1)(F)F | C4H3F3N2
reactant | trans-4-hydroxy-L-proline | 1.76 mmol, 231 mg | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | cesium carbonate | 8.82 mmol, 2900 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylsulfoxide | 7.5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
catalyst | copper(I) iodide | 0.882 mmol, 168 mg | [Cu]I
product | (4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methanol | FC(C=1C=NN(C1)C1=CC=C(C=C1)CO)(F)F | C11H9F3N2O
